US07241769B2
2-(1H-imidazol-2-yl)-phenylamine
By catalytic hydrogenation, using palladium on charcoal or Raney Nickel as catalyst, 2-(2-nitro-phenyl)-1H-imidazole, which is commercially obtainable, is converted into 2-(1H-imidazol-2-yl)-phenylaamine (U.S. Pat. No. 6,376,664).

reactant | 2-(2-nitro-phenyl)-1H-imidazole | [N+](=O)([O-])C1=C(C=CC=C1)C=1NC=CN1 | C9H7N3O2
catalyst | palladium on charcoal | [Pd] | Pd
catalyst | Raney Nickel | [Ni] | Ni
product | 2-(1H-imidazol-2-yl)-phenylamine | N1C(=NC=C1)C1=C(C=CC=C1)N | C9H9N3
